US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid
To a solution of (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (20 mg) was added ((R)-1-isocyanato-ethyl)-benzene (5 equiv) and the reaction stirred at room temperature for 1 hour. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (26 mg). LCMS (m/z): 884.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 20 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | ((R)-1-isocyanato-ethyl)-benzene | 5 equiv | N(=C=O)[C@H](C)C1=CC=CC=C1 | C9H9NO
product | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid | 26 mg | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(N[C@H](C)C3=CC=CC=C3)=O | C50H42Cl2N4O7
